US07851629B2
4-(2,3-difluorophenyl)-1-ethylpiperidine
To a solution of 4-(2,3-difluorophenyl)piperidine (0.41 g, 2.08 mmol) in acetonitrile (4 ml), was added potassium carbonate (0.57 g, 4.16 mmol) and 1-iodoethane (0.163 ml, 2.12 mmol) and the mixture was heated to 120° C. in a sealed tube under microwave radiation for 1200 s. Water (50 ml) was added and the mixture was extracted with ethylacetate (3×40 ml). The combined organic phases was dried (MgSO4), filtered and evaporated to dryness. The oily residue was purified by flash column chromatography (ethylacetate/methanol, 1:1) to give the title compound (0.31 g). MS m/z (reL. intensity, 70 eV) 225 (M+, 20), 224 (14), 211 (13), 210 (bp), 127 (8).

reactant | 4-(2,3-difluorophenyl)piperidine | 2.08 mmol, 0.41 g | FC1=C(C=CC=C1F)C1CCNCC1 | C11H13F2N
reactant | potassium carbonate | 4.16 mmol, 0.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodoethane | 2.12 mmol, 0.163 ml | ICC | C2H5I
reactant | Water | 50 ml | O | H2O
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 4-(2,3-difluorophenyl)-1-ethylpiperidine | 0.31 g | FC1=C(C=CC=C1F)C1CCN(CC1)CC | C13H17F2N
